US07189754B2
Methyl (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylate
Following the general methods as outlined in Example 4, starting from 1-tert-butyl 2-methyl(2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate and [1,1′-biphenyl]-4-carbonyl chloride, the title compound was isolated, after flash-chromatography, as a mixture of two isomers as an oil in 31% yield (99% purity by HPLC).

reactant | 1-tert-butyl 2-methyl(2S,4EZ)-4-(methoxyimino)-1,2-pyrrolidinedicarboxylate | CON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | Methyl (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylate | 31% yield | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)OC)C1=CC=CC=C1 | C20H20N2O4
